US06855716B2
Synthesis of 4-(3,4-dichlorophenyl)-6-methyl-2-phenyl-1,4-dihydropyrimidine-5-carboxylic acid (3-phenylpropyl)amide
100 mg (0.266 mmol) of 2-acetyl-3-(3,4-dichlorophenyl)-N-(3-phenylpropyl)acrylamide was dissolved in 2 ml of DMF. 63.0 mg (0.400 mmol) of benzamidine hydrochloride and 26.0 mg (0.317 mmol) of sodium acetate were added to the obtained solution, and they were stirred at 60° C. overnight. Ethyl acetate was added to the reaction mixture and then the obtained mixture was washed with 1 N hydrochloric acid, saturated aqueous sodium hydrogencarbonate solution and saturated aqueous sodium chloride solution. The organic layer was dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The residue was purified by the silica gel chromatography (hexane/ethyl acetate=1/3) to obtain the title compound.

reactant | 2-acetyl-3-(3,4-dichlorophenyl)-N-(3-phenylpropyl)acrylamide | 0.266 mmol, 100 mg | C(C)(=O)C(C(=O)NCCCC1=CC=CC=C1)=CC1=CC(=C(C=C1)Cl)Cl | C20H19Cl2NO2
reactant | benzamidine hydrochloride | 0.400 mmol, 63.0 mg | Cl.C(C1=CC=CC=C1)(=N)N
reactant | sodium acetate | 0.317 mmol, 26.0 mg | C(C)(=O)[O-].[Na+]
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | 4-(3,4-dichlorophenyl)-6-methyl-2-phenyl-1,4-dihydropyrimidine-5-carboxylic acid (3-phenylpropyl)amide | C1(=CC=CC=C1)CCCNC(=O)C=1C(N=C(NC1C)C1=CC=CC=C1)C1=CC(=C(C=C1)Cl)Cl | C27H25Cl2N3O
